2156-11-12 11:36:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2156-11-11**] 08:31 PM
 ULTRASOUND - At [**2156-11-11**] 09:49 PM
 INDWELLING PORT (PORTACATH) - START [**2156-11-12**] 02:50 AM
   States to feel improved, less dizzy and malaise.
                               History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   Rash;
   Chloroquine
   blurred vision
   Sulfonamides
   Unknown;
   Floxin (Oral) (Ofloxacin)
   Unknown;
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Daptomycin - [**2156-11-12**] 08:12 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-12**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.4
C (97.6
   HR: 85 (78 - 121) bpm
   BP: 107/69(78) {81/49(41) - 114/82(86)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    538 mL
                                                                  1,860 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    538 mL
                                                                  1,740 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                  1,675 mL
   Urine:
                                                                    500 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     38 mL
                                                                    185 mL
   Respiratory support
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Right tunneled catheter
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   121 K/uL
   172
   1.3 mg/dL
   20 mEq/L
   4.0 mEq/L
   21 mg/dL
   111 mEq/L
   137 mEq/L
   26.6 %
   2.4 K/uL
        [image002.jpg]
                            [**2156-11-12**]  12:30 AM
                            [**2156-11-12**]  06:00 AM
                            [**2156-11-12**]  08:00 AM
   WBC
   2.4
   Hct
   26.6
   Plt
   121
   Cr
   1.3
   TropT
   0.02
   Glucose
   108
   178
   172
   Other labs: PT / PTT / INR:12.8/26.8/1.1, CK / CKMB /
   Troponin-T:502/11/0.02, ALT / AST:[**12-11**], Alk Phos / T Bili:41/0.2,
   Differential-Neuts:58.8 %, Lymph:37.3 %, Mono:2.7 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:168 IU/L, Ca++:6.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   HYPOTENSION -- attributed to hypovolemia (reduced intake, possible
   blood loss) and sepsis.  Improved.  monitor BP, maintain MAP >60.
   SEPSIS -- low grade temp.  Concern for line related infection
 now
   with GPC from blood culture obtained at [**Hospital3 **] Hospital.  Empirical
   Daptomycin, Levofloxicin.  Await culture results.  [**Month (only) 60**] need to change
   line, esp. if cultures remain positive.
   ANEMIA -- decrease in setting of recent renal bx, iv fluid
   resussitation.  Monitor serial Hct.
   RENAL INSUFFICIENCY -- prerenal failure in background of renal
   insufficiency.  Monitor UO, BUN, creatinine.
   FLUIDS -- hypovolemia --> improved.  Continue repletion to maintain BP,
   P and urine output.
   PULMONARY HYPERTENSION -- stable dose of flolan.  continue.
   HIT + -- avoid heparin products.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-11-11**] 08:53 PM
   Indwelling Port (PortaCath) - [**2156-11-12**] 02:50 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2156-11-13 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   Rash;
   Chloroquine
   blurred vision
   Sulfonamides
   Unknown;
   Floxin (Oral) (Ofloxacin)
   Unknown;
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Daptomycin - [**2156-11-12**] 08:12 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-13**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 86 (78 - 100) bpm
   BP: 128/80(90) {94/49(62) - 140/89(98)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,960 mL
                                                                    244 mL
   PO:
                                                                  1,000 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,960 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  4,805 mL
                                                                    722 mL
   Urine:
                                                                  4,805 mL
                                                                    722 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,845 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   9.6 g/dL
   173 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.9 mEq/L
   20 mg/dL
   111 mEq/L
   140 mEq/L
   28.8 %
   1.7 K/uL
        [image002.jpg]
                            [**2156-11-12**]  12:30 AM
                            [**2156-11-12**]  06:00 AM
                            [**2156-11-12**]  12:30 PM
   WBC
   2.4
   1.7
   Hct
   26.6
   28.8
   Plt
   121
   147
   Cr
   1.3
   1.0
   TropT
   0.02
   Glucose
   108
   178
   173
   Other labs: PT / PTT / INR:12.6/25.9/1.1, CK / CKMB /
   Troponin-T:502/11/0.02, ALT / AST:[**12-11**], Alk Phos / T Bili:41/0.2,
   Differential-Neuts:58.8 %, Lymph:37.3 %, Mono:2.7 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:168 IU/L, Ca++:7.0 mg/dL,
   Mg++:3.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SYSTEMIC LUPUS ERYTHEMATOSUS (SLE)
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 HYPOTENSION (NOT SHOCK)
 LINE INFECTION (CENTRAL OR ARTERIAL)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2156-11-11**] 07:59 PM
   20 Gauge - [**2156-11-11**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-11-13 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Plaquenil (Oral) (Hydroxychloroquine Sulfate)
   Rash;
   Chloroquine
   blurred vision
   Sulfonamides
   Unknown;
   Floxin (Oral) (Ofloxacin)
   Unknown;
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Daptomycin - [**2156-11-12**] 08:12 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-13**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 86 (80 - 100) bpm
   BP: 128/80(90) {94/49(62) - 140/89(98)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,960 mL
                                                                    244 mL
   PO:
                                                                  1,000 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,960 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  4,805 mL
                                                                    722 mL
   Urine:
                                                                  4,805 mL
                                                                    722 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,845 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Vitals - T 100.7 HR 106 BP 95/57 RR 19 O2sat 74-99%
   GENERAL: Patient sitting back in bed with nasal cannula oxygen, NAD,
   speaking in full sentences. Cushingoid appearance
   HEENT: Dry MM. NCAT. Sclera anicteric. EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   Neck: Thick. Unable to appreciate JVD.
   CV: Tachy. Prominent split S2 with loud P2. No thrills, lifts. +RV
   heave.
   Chest: Crackles in bases L>R. No wheezes or rhonchi. Right chest
   tunneled Hickmans with mild tenderness just superior to line. No
   purulence or drainage. Minimal erythema.
   Abd: Obese. Hypoactive bs. Somewhat distended, soft, NT. No HSM or
   tenderness. No CVA tnederness. No palpable hematoma over left
   Ext: Trace edema. No clubbing or cyanosis. R groin dsg C/D/I. No
   femoral bruits or thrills.
   Skin: Thinning, ecchymoses RLE, UE BL, erythema over anterior chest and
   back
   Neuro: CN 2-12 intact. AAO x 3
   Labs / Radiology
   147 K/uL
   9.6 g/dL
   173 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.9 mEq/L
   20 mg/dL
   111 mEq/L
   140 mEq/L
   28.8 %
   1.7 K/uL
        [image002.jpg]
                            [**2156-11-12**]  12:30 AM
                            [**2156-11-12**]  06:00 AM
                            [**2156-11-12**]  12:30 PM
   WBC
   2.4
   1.7
   Hct
   26.6
   28.8
   Plt
   121
   147
   Cr
   1.3
   1.0
   TropT
   0.02
   Glucose
   108
   178
   173
   Other labs: PT / PTT / INR:12.6/25.9/1.1, CK / CKMB /
   Troponin-T:502/11/0.02, ALT / AST:[**12-11**], Alk Phos / T Bili:41/0.2,
   Differential-Neuts:58.8 %, Lymph:37.3 %, Mono:2.7 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:168 IU/L, Ca++:7.0 mg/dL,
   Mg++:3.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Pt is a 51 yo female with lupus and pulm HTN now s/p kidney biopsy and
   recent discharge for right cardiac cath who is presenting with
   hypotension refractory to IVF resuscitation at OSH.
   .
   # Hypotension: Hypotension concerning for SIRS/sepsis or bleed given
   recent procedure, renal biopsy. Other possible etiologies include
   adrenal insufficiency given chronic steroid use and recent procedure,
   medication effect since recently started on Lisinopril, or medication
   effect from Flolan, possible dysfunction although no recent change in
   dose or reported problems. [**Name (NI) 1816**] likely SIRS/sepsis given fever, low
   WBC. Most likely etiology is line infection given tunneled Hickmans x 1
   year, h/o similar episodes in past and c/o tenderness. In past, pt has
   grown Micrococcus from line and blood cx. Due to interactions with
   Linezolid and Amitriptyline (which pt refuses to stop taking) she has
   been treated with Dapto in past as well as levoflox for gram neg
   coverage. Also consider pneumonia, UTI, although no other localizing
   symptoms. Cardiogenic shock less likely cause of hypotension given lack
   of cardiac symptoms and other signs of infection including fever. Here,
   BP has been responsive to IVF with current SBPs high 90s to 100s.
   - IVF NS at 150cc/hour. Has received 4 liters NS at OSH. Appears
   slightly dry on exam with dry mucus menbranes but pulmonary exam with
   crackles, concern for fluid overload. WIll follow mental status, UOP to
   assess need for IVF resuscitation and continue continuous IVF
   - Daptomycin and Levofloxacin for now for empiric coverage
   - Serial lactate to assess hypoperfusion
   - repeat HCT to assess possible bleed, transfuse PRBC to maintain
   HCT>21 or signs active bleed, check coags
   - Will need to assess need to change line given possible line infection
   - UA, urine cx
   - Follow up blood cx from OSH and repeat blood cx x 2 here
   - Consult ID in am given multiple allergies h/o Micrococcus bacteremia,
   ? appropriate ABx use and duration
   - Renal Ultrasound to assess for hematoma/abscess/fluid collection
   after procedure
   - CEs to ROMI. ECG without acute changes
   - Hold Lisinoprol, home Lasix for now
   - If BP remains low will consider stress dose steroids
   .
   #Fever: Most likely [**2-21**] infection as above but also could have
   inflammatory component given worsening lupus recently, low grade fevers
   x 6months.
   - Fever workup and treat infection as above
   .
   #Pulmonary hypertension: Recent cardiac cath demonstrated severe pulm
   HTN despite Flolan.
   - Continue Flolan
   - Will readd Lasix as BP tolerates, holding for now
   - Off Coumadin until Saturday, will assess for bleed, HCT drop
   - Continue supplemental oxygen to maintain O2 sats >93%
   - Consider addition second [**Doctor Last Name **] as per primary pulmonologist but hold
   for now  given hypotension
   .
   # Lupus nephritis: Patient has lupus nephritis with recent worsening of
   proteinuria, most recently Protein/creatinine ratio 8, improved from
   15-16 [**9-27**].
   - Follow renal function (no labs in system yet today)
   .
   # DM: holding oral hypoglycemics, on ISS
   .
   # Depression/Anxiety: Pt on multiple meds at home. Concern for
   serotonin syndrome given multiple medications and received Linezolid.
   Was going to continue Linezolid but contraindicated with Amitriptyline
   and pt refuses to stop amitriptyline. Per pharmacy, should not
   administer both medications. Linezolid changed to Dapto as per prior
   admission.
   - Continued Cymbalta, amitriptyline, holding Wellbutrin
   .
   #Migraines: Continuing Amitrityline
   .
   # FEN: NPO for renal US
   .
   # PPX: Pneumoboots for DVT prophylaxis (Questionable h/o HIT) ?why pt
   is on fluconazole will continue for now for presumed fungal PPX, bowel
   regimen
   .
   # ACCESS: Hickman, 20g PIV x 2
   .
   # CODE: Full code confirmed with patient
   .
   # CONTACT: [**Name (NI) 1140**] (husband) [**Telephone/Fax (1) 6129**]
   .
   # DISPO: ICU for mow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2156-11-11**] 07:59 PM
   20 Gauge - [**2156-11-11**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: